

***********************************************************
* CDL produced by pvsBuildNetlist on Jul 29 05:57:07 2026 *
***********************************************************


*pvsViewList = auLvs schematic
*pvsStopList = ("auLvs")
*pvsSimName  = auLvs



*.EXPAND_ON_M_FACTOR
*.MEGA



.subckt inverter GND IN OUT VDD
*PVSCELL netlisted from sky130_analog_lib inverter layout
  MNM0 OUT IN GND GND nfet_01v8 m=1 l=150n w=420n
  MPM0 OUT IN VDD VDD pfet_01v8 m=1 l=150n w=550n
.ends inverter


***********************************************************
*             Completed at Jul 29 05:57:07 2026           *
***********************************************************
